US20010027196A1
(E)-3-(2-Amino-4-furan-2-yl-6-methylsulfanyl-pyrimidin-5-yl)-acrylonitrile
From 4-furan-2-yl-5-iodo-6-methylsulfanyl-pyrimidin-2-ylamine, acrylonitrile, bis(triphenylphosphine)palladium(II) chloride and cesium carbonate in dioxane. EI-MS m/e (%): 258 (M+, 76), 241 ([M—NH3]+, 100), 150 (56), 114 (32).

reactant | 4-furan-2-yl-5-iodo-6-methylsulfanyl-pyrimidin-2-ylamine | O1C(=CC=C1)C1=NC(=NC(=C1I)SC)N | C9H8IN3OS
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (E)-3-(2-Amino-4-furan-2-yl-6-methylsulfanyl-pyrimidin-5-yl)-acrylonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)/C=C/C#N)SC | C12H10N4OS
